US07495018B2
4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-2-(4-methylsulfinylphenyl)-1,3-thiazole
To a solution of 4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-2-[4-(methylthio)phenyl]-1,3-thiazole (0.55 g, 1.4 mmol) in acetic acid (15 mL) was added a solution of potassium persulfate (0.43 g, 1.6 mmol) in water (8 mL), and the mixture was stirred for 14 hours at room temperature. An aqueous sodium hydrogen carbonate solution was poured into the reaction mixture, and extracted with ethyl acetate. The extracts were washed with water, dried, then, the solvent was distilled off. The residue was purified by column chromatography (filler: Chromatorex NH DM1020 (trade name, manufactured by Fuji Silysia Chemical Ltd.), hexane-ethyl acetate=1:4), and recrystallized from ethyl acetate-hexane to obtain a title compound (0.15 g, yield 26%).

reactant | 4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-2-[4-(methylthio)phenyl]-1,3-thiazole | 1.4 mmol, 0.55 g | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)C)C1=CC=C(C=C1)SC | C23H20N2S2
reactant | potassium persulfate | 1.6 mmol, 0.43 g | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
solvent | water | 8 mL | O | H2O
product | 4-(3-methylphenyl)-5-(2-methyl-4-pyridyl)-2-(4-methylsulfinylphenyl)-1,3-thiazole | 0.15 g, yield 26% | CC=1C=C(C=CC1)C=1N=C(SC1C1=CC(=NC=C1)C)C1=CC=C(C=C1)S(=O)C | C23H20N2OS2
